US04348519
2.67 g. of 3,4-dihydro-2-methyl-4-oxo-2H-[1]benzothieno[2,3-e]-1,2-thiazine 1,1-dioxide are dissolved in 40 ml. of absolute dimethylformamide and 1.2 ml. of phenylisocyanate are added. The solution obtained is added dropwise at 4° C. within 30 minutes to a suspension of 600 mg. of a 55% sodium hydride dispersion in paraffin in 10 ml. of dimethylformamide. The mixture is stirred for a further 1 hour at 4° C. and subsequently for 2 hours at 27° C. and then stirred into 400 ml. of ice/water. The solution obtained is acidified with concentrated hydrochloric acid. The precipitate is filtered off under suction, washed with water and dissolved in methylene chloride. The resulting solution is dried over sodium sulfate and evaporated. The residue is stirred with 30 ml. of methanol. The insoluble components are digested with acetonitrile, filtered off under suction and dried for 4 hours at 100° C./11 Torr. The 4-hydroxy-2-methyl-N-phenyl-2H-[1]benzothieno[2,3-e]-1,2-thiazine-3-carboxamide 1,1-dioxide obtained melts at 261°-263° C.

reactant | 3,4-dihydro-2-methyl-4-oxo-2H-[1]benzothieno[2,3-e]-1,2-thiazine 1,1-dioxide | CN1S(C2=C(C(C1)=O)SC1=C2C=CC=C1)(=O)=O | C11H9NO3S2
reactant | phenylisocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | sodium hydride | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-hydroxy-2-methyl-N-phenyl-2H-[1]benzothieno[2,3-e]-1,2-thiazine-3-carboxamide 1,1-dioxide | OC1=C(N(S(C2=C1SC1=C2C=CC=C1)(=O)=O)C)C(=O)NC1=CC=CC=C1 | C18H14N2O4S2
